US05283355
Preparation of 2,3,5-trichloro-6-cyclohexanyloxy-1,4-benzoquinone
Chloranil (0.06 mole) and sodium hydrogen carbonate (0.075 mole) were added to 300 ml of methyl ethyl ketone (MEK). The mixture was heated to 55° C. before adding cyclohexanol (0.5 mole) dropwise with stirring. When the reaction was complete (as judged by HPLC) the MEK solvent was removed from the product mixture under vacuum. The resultant orange gum was recrystallised from petroleum ether to provide the bright orange crystalline title product (0.04 moles).

reactant | Chloranil | 0.06 mole | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | sodium hydrogen carbonate | 0.075 mole | C(O)([O-])=O.[Na+]
reactant | cyclohexanol | 0.5 mole | C1(CCCCC1)O | C6H12O
solvent | MEK | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 300 ml | C(C)C(=O)C | C4H8O
product | 2,3,5-trichloro-6-cyclohexanyloxy-1,4-benzoquinone | 0.04 moles | ClC=1C(C(=C(C(C1Cl)=O)Cl)OC1CCCCC1)=O | C12H11Cl3O3
